US06642229B2
3-Bromoimidazo[1,2-a]pyrimidine-7-carboxylic acid methyl ester was coupled with 3′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile as described in Example 1 to give 3-(2′-cyanobiphenyl-3-yl)-imidazo[1,2-a]pyrimidine-7-carboxylic acid methyl ester as a pale yellow powder: δH (400 MHz, CDCl3) 4.07 (3H, s), 7.50-7.54 (1H, m), 7.58-7.76 (6H, m), 7.81-7.84 (2H, m), 8.18 (1H, s), 9.10 (1H, d, J 7); m/z (ES+) 355 (M++H).

reactant | 3-Bromoimidazo[1,2-a]pyrimidine-7-carboxylic acid methyl ester | COC(=O)C1=NC=2N(C=C1)C(=CN2)Br | C8H6BrN3O2
reactant | 3′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile | CC1(OB(OC1(C)C)C=1C=C(C=CC1)C=1C(=CC=CC1)C#N)C | C19H20BNO2
product | 3-(2′-cyanobiphenyl-3-yl)-imidazo[1,2-a]pyrimidine-7-carboxylic acid methyl ester | COC(=O)C1=NC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)C2=C(C=CC=C2)C#N | C21H14N4O2
